US05877191
Step C: (3S,5R,6R,7S)-7-(N-(Benzyloxycarbonyl)methylamino)-6-(4-fluorophenyl)-3-(2-methoxy-5-(2-(trifluoromethyl)imidazol-1-yl)phenyl)-1-oxaspiro[4.4]nonane
A THF solution of sodium bis(trimethylsily)amide (0.059 mL, 1.0M, 0.059 mmol) was added to an ice-cooled solution of (3S,5R,6R,7S)-7-(benzyloxycarbonylamino)-6-(4-fluorophenyl)-3-(2-methoxy-5-(2-(trifluoromethyl)imidazol-1-yl)phenyl)-1-oxaspiro[4.4]nonane (30 mg, 0.049 mmol) in 0.50 mL of dry THF. After stirring for 15 minutes at 0° C., iodomethane (0.0037 mL, 8.4 mg, 0.059 mmol) was added. The mixture was stirred at 0° C., then allowed to warm up to RT for 3 h. The reaction was diluted in 20 mL of ethyl acetate and washed with 10 mL of saturated aqueous sodium bicarbonate, followed by 10 mL of brine. Drying over sodium sulfate and concentration afforded the crude product. Purification by preparative TLC, eluting with 30% ethyl ether in 1:1 toluene/hexane, yielded 7.5 mg of pure title compound and 15 mg of a mixture containing the title compound and recovered starting material. Mass spectrum (NH3/CI): m/z=624.2 (M+1).

reactant | sodium bis(trimethylsily)amide | 0.059 mmol, 1.0M, 0.059 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | (3S,5R,6R,7S)-7-(benzyloxycarbonylamino)-6-(4-fluorophenyl)-3-(2-methoxy-5-(2-(trifluoromethyl)imidazol-1-yl)phenyl)-1-oxaspiro[4.4]nonane | 0.049 mmol, 30 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@H]([C@]2(C[C@H](CO2)C2=C(C=CC(=C2)N2C(=NC=C2)C(F)(F)F)OC)CC1)C1=CC=C(C=C1)F | C33H31F4N3O4
reactant | iodomethane | 0.059 mmol, 0.0037 mL, 8.4 mg | IC | CH3I
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 0.50 mL | C1CCOC1 | C4H8O
product | (3S,5R,6R,7S)-7-(N-(Benzyloxycarbonyl)methylamino)-6-(4-fluorophenyl)-3-(2-methoxy-5-(2-(trifluoromethyl)imidazol-1-yl)phenyl)-1-oxaspiro[4.4]nonane | 7.5 mg | C(C1=CC=CC=C1)OC(=O)CN[C@@H]1[C@H]([C@]2(C[C@H](CO2)C2=C(C=CC(=C2)N2C(=NC=C2)C(F)(F)F)OC)CC1)C1=CC=C(C=C1)F | C34H33F4N3O4
